US07314946B2
As described in Example 2, 2.97 g (0.0225 mol) of dicyclopentadiene, 5.66 g (0.0335 mol) of isopropyldichlorosilane, 0.036 g (0.000203 mol) of palladium dichloride, 100 μL (0.000406 mol) of tributylphosphine and 4 mL of toluene and 2 mL of dodecane were placed in a reactor. The reactor was sealed, and the reaction was performed at 180° C. for 1 hour. Products were subject to simple vacuum distillation, thereby providing a mixture (13.4 g) of (2-cyclopentenyl)cyclopentyldichlorosilane (5.73 g, 73%), other unreacted reactants, toluene, hexadecane, and unidentified compounds.

reactant | dicyclopentadiene | 0.0225 mol, 2.97 g | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | isopropyldichlorosilane | 0.0335 mol, 5.66 g | C(C)(C)[SiH](Cl)Cl | C3H8Cl2Si
reactant | dodecane | 2 mL | CCCCCCCCCCCC | C12H26
catalyst | palladium dichloride | 0.000203 mol, 0.036 g | [Pd](Cl)Cl
catalyst | tributylphosphine | 0.000406 mol, 100 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (2-cyclopentenyl)cyclopentyldichlorosilane | 13.4 g, 73% | C1(C=CCC1)[Si](Cl)(Cl)C1CCCC1 | C10H16Cl2Si
